* BHV badge +5VL rail - averaged model of TPS61040 DCM peak-current boost
* Topology from bhvBadge2026.kicad_pcb: Vext-D15->/EN, L1->/SW, D16->+5V, C3 out,
* R1/R2 divider, Q2 high-side to +5VL, C4 bulk on the SWITCHED side.
*
* The converter is represented by its ENVELOPE: it sources up to Iout_max and
* regulates to Vtarget. Iout_max is derived from DCM peak-current operation
* rather than assumed, so Monte Carlo over L1 / Ipk / battery propagates properly.
.param VBAT=3.7 VF15=0.30 VFD16=0.35
.param IPK=0.400 L1=3.3u
.param VTARGET=5.055
.param CLOAD=220u RQ2=0.10
.param VIN={VBAT-VF15}
.param TON={L1*IPK/VIN}
.param TOFF={L1*IPK/(VTARGET+VFD16-VIN)}
.param IOUTMAX={0.5*IPK*TOFF/(TON+TOFF)}

* regulator envelope: P-control into the output node, hard-limited at IOUTMAX
Bboost 0 out I = v(out) < VTARGET ? min(IOUTMAX, 50*(VTARGET-v(out))) : 0
C3     out 0 4.7u
Rbleed out 0 1meg

* Q2 high-side switch, closed from t=0 (rail enable), C4 on the switched side
Rq2    out vled {RQ2}
C4     vled 0 {CLOAD}
* WS2812B load: 14 devices quiescent (~1mA each), animation step at 40ms
Iled   vled 0 PWL(0 0.014 40m 0.014 40.001m {ILEDPK})
.param ILEDPK=0.055

.control
set noaskquit
tran 20u 120m uic
meas tran t35   WHEN v(vled)=3.5 RISE=1
meas tran t50   WHEN v(vled)=5.0 RISE=1
meas tran vsag  MIN v(vled) from=40.1m to=120m
meas tran vfin  AVG v(vled) from=100m to=120m
* (IOUTMAX is a .param, not a vector, so it cannot be printed from .control here;
*  sweep2.py computes the same closed form in Python.)
.endc
.end
